*
* AC to DC
*
* forces current values to be saved
.options savecurrents
*---------------------------------------------------*

*transformador
vS n1 0 0 sin(0 230 50)
RS n1 n2 0.1
F1 0 n2 E1 0.356085
E1 1 3 n2 0 0.356085



*Full-wave recitifer
D1 1 2 Default
D2 GND 3 Default
D3 3 2 Default
D4 GND 1 Default

*Envelope detector
*R1 2 GND 305k
C1 2 GND 305u

*Voltage regulator
R2 2 5 170k
D5 5 6 Default
D6 6 7 Default
D7 7 8 Default
D8 8 9 Default
D9 9 11 Default
D10 11 12 Default
D11 12 13 Default
D12 13 14 Default
D13 14 15 Default
D14 15 16 Default
D15 16 17 Default
D16 17 18 Default
D17 18 19 Default
D18 19 20 Default
D19 20 21 Default
D20 21 22 Default
D21 22 23 Default
D22 23 24 Default
D23 24 GND Default

*---------------------------------------------------*

.model Default D
.op
.end

.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

*---------------------------------------------------*

tran 1e-5 200e-3

meas tran vavg AVG v(5) from=50m to=100m
meas tran vmax MAX v(5) from=50m to=100m
meas tran vmin MIN v(5) from=50m to=100m

echo "********************************************"
echo  "MAX and MIN"
echo "********************************************"
echo  "MAXMIN_TAB"
print vmax-vmin
print vmax
print vmin
print vavg
echo  "MAXMIN_END"

*run
plot v(5)
hardcopy vospice.ps v(5) 
echo vospice_FIG

plot v(2)
hardcopy vedspice.ps v(2) 
echo vedspice_FIG

plot v(5)-12 xlimit 0.05 0.1 ylimit -0.001 +0.001
hardcopy voripple.ps v(5)-12 xlimit 0.05 0.1 ylimit -0.001 +0.001
echo voripple_FIG


.endc

