*
* NGSPICE simulation script
* T1
*

* forces current values to be saved
.options savecurrents




Vs n1 GND dc 5.01015797903 


VO GND n0 dc 0
Hd n5 n8 VO 8.13697715515k


Gb n6 n3 n2 n5 7.27607852163m


R1 n1 n2 1.03034608494k
R2 n2 n3 2.03076273175k
R3 n2 n5 3.09442618781k
R4 GND n5 4.08713017488k
R5 n5 n6 3.00518812223k
R6 n0 n7 2.03106965039k
R7 n7 n8 1.04759435052k
C n6 n8 1.02637626609u
.op
.control
op
echo  "values1_TAB"

print @R1[i]
print @R2[i]
print @R3[i]
print @R4[i]
print @R5[i]
print @R6[i]
print @R7[i]
print n1
print n2
print n3
print n5
print n6
print n7
print n8

echo  "values1_END"

quit
.endc

.end


